US06613718B2
6-[4-Chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-3,4-dihydro-2,4-dimethyl-3-thioxo-1,2,4-triazin-5(2H)-one (Compound no. 4-1)
A mixture 6-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,4-dimethyl-5-oxo-3-thioxo-2,3,4,5-tetrahydro-1,2,4-triazine (0.200 g), 2-chloropyrimidine (0.084 g), potassium carbonate (0.113 g), 2-butanone (10 ml), and dimethyl sulfoxide (2.5 ml) was heated at refluxed for 10 hours. The reaction was partitioned between water and ethyl acetate and the aqueous phase extracted with ethyl acetate (3×25 ml). The combined organic layers were dried over anhydrous magnesium sulfate and concentrated to afford the desired material (0.21 g).

reactant | 6-(4-chloro-2-fluoro-5-hydroxyphenyl)-2,4-dimethyl-5-oxo-3-thioxo-2,3,4,5-tetrahydro-1,2,4-triazine | 0.200 g | ClC1=CC(=C(C=C1O)C=1C(N(C(N(N1)C)=S)C)=O)F | C11H9ClFN3O2S
reactant | 2-chloropyrimidine | 0.084 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 0.113 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-butanone | 10 ml | CC(CC)=O | C4H8O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 6-[4-Chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-3,4-dihydro-2,4-dimethyl-3-thioxo-1,2,4-triazin-5(2H)-one | 0.21 g | ClC1=CC(=C(C=C1OC1=NC=CC=N1)C=1C(N(C(N(N1)C)=S)C)=O)F | C15H11ClFN5O2S
